US04189480
5-Isothiocyanato-3-methylisoquinoline (8.8 g) is added to a solution of (RS)-3-(2-hydroxyethyl)-1,2,3,4-tetrahydroisoquinoline (7.8 g) in ethanol (150 cc). A white precipitate rapidly forms. After stirring for 17 hours at a temperature of about 20° C., the mixture is evaporated to dryness at 40° C. under reduced pressure (30 mm Hg). (RS)-3-(2-Hydroxyethyl)-N-(3-methylisoquinol-5-yl)-1,2,3,4-tetrahydroisoquinoline-2-carbothioamide (16.5 g) is thus obtained in the form of pale yellow crystals.

reactant | 5-Isothiocyanato-3-methylisoquinoline | 8.8 g | N(=C=S)C1=C2C=C(N=CC2=CC=C1)C | C11H8N2S
reactant | (RS)-3-(2-hydroxyethyl)-1,2,3,4-tetrahydroisoquinoline | 7.8 g | OCCC1NCC2=CC=CC=C2C1 | C11H15NO
solvent | ethanol | 150 cc | C(C)O | C2H6O
product | (RS)-3-(2-Hydroxyethyl)-N-(3-methylisoquinol-5-yl)-1,2,3,4-tetrahydroisoquinoline-2-carbothioamide | 16.5 g | OCCC1N(CC2=CC=CC=C2C1)C(NC1=C2C=C(N=CC2=CC=C1)C)=S | C22H23N3OS
